US07847101B2
2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonic acid (3-dimethylamino-propyl)-amide (551-22C):
the title compound (2 mg) was prepared from crude 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonyl chloride (100 mg, 0.30 mmol), N1,N1-dimethylpropane-1,3-diamine (77 μL, 0.60 mmol) and PS-NMM (0.320 g, 0.60 mmol) in 5 mL of methanol. MS (m/z, ES+): 395.3 (M+1, 100%). Yield=2%.

reactant | 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonyl chloride | 0.30 mmol, 100 mg | NC1=C(C(=NN1)C)C=1SC2=C(N1)C=CC(=C2)S(=O)(=O)Cl | C11H9ClN4O2S2
reactant | N1,N1-dimethylpropane-1,3-diamine | 0.60 mmol, 77 μL | CN(CCCN)C | C5H14N2
reactant | NMM | 0.60 mmol, 0.320 g | CN1CCOCC1 | C5H11NO
solvent | methanol | 5 mL | CO | CH4O
product | 2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonic acid (3-dimethylamino-propyl)-amide | 2 mg, Yield=2% | CN(CCCNS(=O)(=O)C1=CC2=C(N=C(S2)C=2C(=NNC2N)C)C=C1)C | C16H22N6O2S2
